US06599925B2
[6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid
Following the procedure described in Step 4 of Example 6, [6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester (0.34 g, 0.82 mmol), was hydrolyzed with potassium hydroxide (0.50 g, 8.9 mmol) in THF (20 mL) and water (10 mL). The title compound was obtained as an off-white solid (0.28 g), mp 163-165° C. Mass spectrum (+APCl, [M+H]+) m/z 389. 1HNMR (400 MHz, DMSO-d6): δ13.15 (br s, 1H), 8.24 (s, 1H), 7.99 (d, 1H, J=9.0 Hz), 7.93 (d, 1H, J=8.8 Hz), 7.85 (dd, 1H, J=8.5, 1.7 Hz), 7.69-7.66 (m, 1H), 7.59 (d, 1H, J=7.8 Hz), 7.35-7.25 (m, 4H), 4.82 (s, 2H), 2.98 (t, 2H, J=7.6 Hz), 1.72 (p, 2H, J=7.3 Hz), 1.42-1.27 (m, 4H), and 0.83 ppm (t, 3H, J=7.1 Hz). Elemental Analysis for C25H24O4.0.4H2O: Calculated: C, 75.89; H, 6.32; N, 0.00. Found: C, 75.9; H, 6.07; N, 0.17.

reactant | [6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | 0.82 mmol, 0.34 g | C(C)OC(COC1=CC2=CC=C(C=C2C=C1)C=1OC2=C(C1CCCCC)C=CC=C2)=O | C27H28O4
reactant | potassium hydroxide | 8.9 mmol, 0.50 g | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | [6-(3-Pentyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetic acid | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)O | C25H24O4
